US08022206B2
1-[2-Fluoro-6-(trifluoromethyl)phenyl]propan-2-ol
A solution of 2.5 M of n-BuLi in hexane (4.4 mL) was added to THF (10.0 mL) at −78° C. under nitrogen, followed by the addition of 1.0 M of KOtBu in THF (11 mL). The mixture was stirred at −78° C. for 30 min, then 1-fluoro-3-(trifluoromethyl)benzene (1.5 g, 9.1 mmol) in THF (5 mL) was added slowly, and the resulting mixture was stirred at this temperature for 30 min. Then a solution of propylene oxide (640 mg, 11 mmol) in THF (5 mL) was added at −78° C. The mixture was allowed to slowly warmed to rt and stirred overnight. The mixture was quenched with water (10 mL), and then extracted with EtOAc (50 mL). The organic phase was washed with brine (10 mL), and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure to yield a brown oil. The crude material was purified by silica gel chromatography using Hexane/EtOAc (80:20) as eluent to give the desired product as a yellow solid. 1H NMR (CD3OD, 400 MHz): δ=1.22 (d, J=6.3 Hz, 3H), 2.90-2.97 (m, 1H), 3.06-3.13 (m, 1H), 4.05-4.13 (m, 1H), 7.37-7.44 (m, 1H), 7.47 (td, J=7.9, 5.7 Hz, 1H), 7.54-7.59 (m, 1H). 1H NMR (CDCl3, 400 MHz): δ=1.30 (d, J=6.1 Hz, 3H), 1.41 (d, J=6.1 Hz, 1H), 2.93-3.07 (m, 1H), 4.08-4.17 (m, 1H), 7.23-7.27 (m, 1H), 7.29 (s, 1H), 7.30-7.37 (m, 1H), 7.48 (d, J=7.8 Hz, 1H).

reactant | n-BuLi | 2.5 M | [Li]CCCC
reactant | KOtBu | 1.0 M | CC(C)(C)[O-].[K+]
reactant | 1-fluoro-3-(trifluoromethyl)benzene | 9.1 mmol, 1.5 g | FC1=CC(=CC=C1)C(F)(F)F | C7H4F4
reactant | propylene oxide | 11 mmol, 640 mg | C1C(C)O1 | C3H6O
solvent | hexane | 4.4 mL | CCCCCC | C6H14
solvent | THF | 11 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 10.0 mL | C1CCOC1 | C4H8O
product | 1-[2-Fluoro-6-(trifluoromethyl)phenyl]propan-2-ol | FC1=C(C(=CC=C1)C(F)(F)F)CC(C)O | C10H10F4O
